Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lantus U-100 Insulin
 
Attending: ___.
 
Chief Complaint:
fall, ___ pain
 
Major Surgical or Invasive Procedure:
ORIF right bicondylar tibial plateau fracture
IVC filter placement

 
History of Present Illness:
___ is a ___ year old woman with diabetes, peripheral
vascular disease, Alzheimer's, history of provoked DVT, history
of upper GI bleed, who was transferred to the ___ ED from
___ after sustaining a fall with tib/fib fracture.

The history was obtained from the patient's family and records,
since she is unable to provide a reliable account. She had
reportedly been in her usual state of health yesterday evening.
her son ___ visited her in the evening, and she did not seem to
have any new symptoms or difficulty ambulating with her walker.
She reportedly did all her normal activities during the day. 
Around 11 ___ she had a fall and pulled her alarm. She lives at 
an
assisted living in ___. Her family suspects that the 
socks
she was wearing were slippery, leading to a mechanical fall,
although this is uncertain. She has had two other falls in the
recent past. She was brought to ___, where she
underwent a trauma evaluation that revealed a proximal tib/fib
fracture (see full details of work-up below). While in the
___ she was reportedly satting 92% on room air, which 
is
her baseline, with a normal appearing CXR. She did received a 
500
cc bolus of D5 containing fluids due to hypoglycemia while in 
the
ED. She was transferred to ___ for further orthopedic
evaluation. 

In the ___ ED vitals were: afebrile, HR ___, BP
110s-210s/50s-110s, RR ___, satting 95-100% on RA-2L. Labs 
were
notable for leukocytosis (12.8 80% PMN), negative troponin,
normal lytes, and pyuria. She was noted to have wheezing and
reportedly satting 87% on 1 L, requiring 2L to maintain sats in
___. She was evaluated by trauma surgery and orthopedics in the
ED. In addition to her right knee pain she also endorsed 
shoulder
pain. While in the ED she reportedly have a brief, 
self-resolving
episode of tachycardia to 130s, possibly afib, for which she
received 5 mg IV metoprolol. Her CXR appeared wet, and he also
received duonebs, Lasix 20 mg, Tylenol, morphine, and sublingual
NTG. Orthopedic placed a splint to her R leg but decided to hold
off on surgery given the hypoxia and concern for CHF. 

I interviewed the patient and her family upon arrival to the
floor. The patient endorsed dyspnea, although the family stated
that she appeared to be at her baseline and that she had not
seemed dyspneic at any time leading up to her presentation or
since her presentation that they perceived. The patient stated
that she had pain "all over", but particularly in the left
shoulder, back, and right leg. She states overall it was
improving. She denied chest or abdominal pain. She denied
dysuria. 

I reviewed the case with ___, the patient's PCP, 
who
states that the patient has no history of CHF. 
 
Past Medical History:
-hyperlidemia 
-diabetes
-insomnia
-hypertension
-macular degeneration
-dementia 
-osteoarthtis 
-peripheral vascular disease

 
Social History:
___
Family History:
-denies hx of colon cancer

 
Physical Exam:
DISCHARGE EXAM:
GENERAL: Alert and in no apparent distress, slightly tremulous
EYES: Anicteric, pupils pinpoint ~1-2 mm
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: irregular rhythm
RESP: clear air entry bilaterally with mild scattered crackles,
no wheezing
GI: Abdomen soft, non-distended, non-tender to palpation.  
GU: No suprapubic tenderness, Foley with medium yellow urine
MSK: Splint in place over R leg, able to move toes bilaterally,
mild left shoulder TTP without significant worsening upon 
passive
range of motion
SKIN: stasis changes of left lower leg, small skin tear of left
shin
EXTR: cool feet, symmetric, mild edema of left foot, unable to
assess right foot due to splint
NEURO: Alert, interactive, answers questions apprporiately
although she is only partially oriented (able to states she is 
in
hospital after given choices, knew it was 20-something rather
than 19-something only when prompted, knows she lives on ___), face symmetric, gaze conjugate with EOMI, speech
fluent, hand grip intact bilaterally, bilateral toe movement
grossly symmetric
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
GEN: alert, pleasant
CV: normal rate, normal S1S2
RESP: CTAB, no w/r/r
GI: soft, NT/ND, NABS. 
MSK: RLE bandages CDI. Distal sensation is intact and pulses
dopplerable. 
Ext: trace edema in b/l ___
SKIN: No rashes or ulcerations noted, + rectal prolapse without
skin tear or bleeding noted
NEURO: awake, interactive, AOx2 (self and place, not date) 
PSYCH: pleasant and appropriate affect
 
Pertinent Results:
Admission labs
___ 04:25AM BLOOD WBC-12.8* RBC-4.25 Hgb-12.0 Hct-39.5 
MCV-93 MCH-28.2 MCHC-30.4* RDW-15.3 RDWSD-51.8* Plt ___
___ 04:25AM BLOOD ___ PTT-31.8 ___
___ 04:25AM BLOOD Glucose-182* UreaN-10 Creat-0.8 Na-144 
K-4.0 Cl-107 HCO3-24 AnGap-13
___ 04:25AM BLOOD Calcium-8.7 Phos-3.8 Mg-1.7

IMAGING
CXR ___ IMPRESSION:  Moderate cardiomegaly with increase in 
moderate pulmonary edema and small bilateral pleural effusions.

TTE ___
IMPRESSION: Biatrial enlargement. Moderate LVH with small, 
underfilled LV cavity. Normal LV function. Moderately dilated RV 
with severe RV dysfunction. Severe TR and severe pulmonary HTN.
Mild AR. Mildly dilated aorta.

CTA ___ IMPRESSION: 
1.   Subsegmental pulmonary embolism the right upper lobe apical 
branch.
2.   Enlarged main, right and left pulmonary arteries consistent 
with history of pulmonary artery hypertension.  No evidence of 
right heart strain. 3.   Pulmonary edema and moderate bilateral 
pleural effusions.

- KNEE XR ___: 
1. Stable comminuted, displaced, and moderately impacted 
bicondylar tibial plateau fracture, Schatzker class 6, in 
unchanged alignment. 2. Comminuted, mildly impacted proximal 
fibular head and neck fracture is better evaluated on recent CT 
lower extremity, however appears grossly unchanged. 3. Stable 
large lipohemarthrosis 

- LENIS ___: Left common femoral vein deep venous thrombosis.

- V/Q SCAN ___: 1. Patchy bilateral ventilation defects are 
consistent with airway disease. Notably, there is a significant 
defect in the left lower lobe which could represent a mucous 
plug.  2. Perfusion defect in the right upper lobe may represent 
prior documented subsegmental PE.  There are no additional V/Q 
mismatch to suggest additional PE. 

 
Brief Hospital Course:
___ is a ___ hx IDDM2, PVD, Alzheimer's, provoked 
DVT, transferred from ___ after mechanical fall with tib/fib 
fracture with hypoxia, found to have PE, DVT, chronic dCHF, and 
RV failure.

# Proximal RLE tibial platuea fracture: 
Transferred from CHA with fracture in setting of fall. 
Originally seen by ortho and placed in cast. Given medical 
issues below, required extensive pre-operative evaluation for 
___, PE, DVT, RV failure and was ultimately deemed a high risk 
candidate by cardiology and medicine. Underwent tibial plateau 
fracture ORIF on ___ with regional blocks and MAC in place of 
general anesthesia and tolerated the procedure well without need 
for intubation. There were no complications and she improved in 
the post-operative period.  She is touch down weight bearing 
(TDWB) in the right lower extremity in an unlocked ___. ___ 
evaluated her and recommended discharge to rehab. 

# Acute Hypoxic Respiratory Failure
# Acute Pulmonary Embolism:
# Left Femoral Common Vein DVT:
# Acute on Chronic Diastolic CHF: 
Patient was hypoxic on transfer from OSH. CTA performed and 
demonstrated a small distal PE in RUL and she was subsequently 
started on a heparin gtt. ___ demonstrated a large left common 
femoral vein DVT. Echocardiogram demonstrated high PASP/pHTN out 
of proportion to PE size, with RV free wall dilation and 
hypokinesis. She was diuresed for acute on chronic diastolic 
CHF. Given high-risk cardiac morbidities, evaluated by 
cardiology pre-op.  Cardiology recommended V/Q scan to evaluate 
between chronic left sided dCHF or CTEPH as cause of pulmonary 
HTN - test favored the former. An IVC filter was placed to 
reduce embolism of high risk DVT while off anticoagulation for 
surgery. Post-operatively, she was transitioned from heparin to 
Rivaroxaban.  She developed a small amount of rectal bleeding 
while on Rivaroxaban so was subsequently switched to Coumadin 
for improved control and option of reversal.  As this DVT/PE was 
likely provoked in the setting of fracture, she will require at 
least 3 months of anticoagulation.

# Acute on Chronic Diastolic CHF: 
As above, TTE with LVH, normal LV function, moderately dilated 
RV with severe RV
global free wall hypokinesis. Severe TR and severe pulm HTN 
(PASP 61), Mild AR. RV pressures and hypokinesis out of 
proportion to PE size, and as V/Q scan without other significant 
perfusions defects, suspect elevated PASP is due to chronic left 
sided failure. She was initially treated with iv Lasix and then 
transitioned to home torsemide.

# Rectal bleeding 
# Rectal Prolapse
Small blood clots seen per rectum on ___. Hemoglobin 
remained stable.  She has a known history of rectal prolapse. 
Colorectal surgery was called to evaluate and reduce rectal 
prolapse.  They recommended an adequate bowel regimen to ensure 
soft BMs.  The bleeding per rectum was small and thus, 
anticoagulation was not stopped.  Colorectal Surgery did not 
feel any surgical intervention was warranted at this time.

# HTN: Persistently elevated this admission. Continued home 
losartan and home hydralazine. She was started on nifedipine 
which was titrated to 60 mg daily and her hydralazine was 
titrated down to 10 mg TID. Plan to taper hydralazine as able.

# IDDM2: ___ prior MD discussion with her PCP she is ___ brittle 
diabetic and her diabetic regimen had been liberalized to avoid 
hypoglycemia at the expense of tight control. She was thus kept 
on a liberal sliding scale while hospitalized with most FSBS in 
the 200s. While hospitalized home NPH, trulicity, and metformin 
were held.

# Demand Ischemia
# Type 2 MI: On admission patient had mild troponin leak in 
setting of tachycardia, PE, and acute on chronic diastolic CHF. 
Troponins peaked to 0.10 --> 0.07. EKG without clear ischemic 
changes. Continued on aspirin, statin, and blood pressure agents 
as anove. 

# Asymptomatic Bacteruria: Unclear if patient had urinary 
symptoms on admission. UCX with E. Coli s/p 3 days CTX 
___. IUC removed without issue. 

# PVD: continued statin, ASA

# Alzheimer's dementia: Maintained on delirium precautions. Home 
donepezil continued.

# Chronic pain: continued home fentanyl patch, Tylenol, and 
gabapentin. Additional pain meds given as needed 

TRANSITIONAL ISSUES
[] INR check daily until stable -- currently on Coumadin 2 mg 
q1800
[] Call ___ to arrange follow up with Orthopedic 
Surgery ___, NP for suture removal between 
___ 
[] Monitor blood pressure - taper/titrate hydralazine as 
tolerated
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PreserVision AREDS-2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY 
2. Potassium Chloride 20 mEq PO DAILY 
3. Pantoprazole 40 mg PO Q12H 
4. MetFORMIN (Glucophage) 500 mg PO DAILY 
5. Losartan Potassium 50 mg PO BID 
6. HydrALAZINE 20 mg PO TID 
7. Gabapentin 100 mg PO BID 
8. Fentanyl Patch 12 mcg/h TD Q72H 
9. Donepezil 10 mg PO QHS 
10. Atorvastatin 40 mg PO QPM 
11. Aspirin 81 mg PO DAILY 
12. Trulicity (dulaglutide) 0.75 mg/0.5 mL subcutaneous 1X/WEEK 
13. Vitamin D ___ UNIT PO EVERY 2 WEEKS (___) 
14. Torsemide 5 mg PO DAILY 
15. HumuLIN N NPH Insulin KwikPen (insulin NPH isoph U-100 
human) 20 U SC DAILY 
16. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin 
3.  NIFEdipine (Extended Release) 60 mg PO DAILY  
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Ramelteon 8 mg PO QHS 
Should be given 30 minutes before bedtime  
6.  Warfarin 2 mg PO DAILY16  
7.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
8.  Aspirin 81 mg PO DAILY  
9.  Atorvastatin 40 mg PO QPM  
10.  Donepezil 10 mg PO QHS  
11.  Fentanyl Patch 12 mcg/h TD Q72H  
12.  Gabapentin 100 mg PO BID  
13.  HydrALAZINE 20 mg PO TID  
14.  Losartan Potassium 50 mg PO BID  
15.  MetFORMIN (Glucophage) 500 mg PO DAILY  
16.  Pantoprazole 40 mg PO Q12H  
17.  Potassium Chloride 20 mEq PO DAILY 
Hold for K >  
18.  PreserVision AREDS-2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY  
19.  Torsemide 5 mg PO DAILY  
20.  Trulicity (dulaglutide) 0.75 mg/0.5 mL subcutaneous 1X/WEEK 
 
21.  Vitamin D ___ UNIT PO EVERY 2 WEEKS (___)  
22. HELD- HumuLIN N NPH Insulin KwikPen (insulin NPH isoph U-100 
human) 20 U SC DAILY  This medication was held. Do not restart 
HumuLIN N NPH Insulin KwikPen until blood sugars will tolerate

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right bicondylar tibial plateau fracture
Left common femoral DVT
Subsegmental PE

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___

You were admitted after a fall and found to have a fracture in 
your R leg.  You underwent surgery to fix the fracture.  You 
were also found to have low oxygen levels caused by a pulmonary 
embolism (blood clot in your lungs), as well as a blood clot in 
your leg. You were started on a blood thinner and a diuretic.  
An IVC filter was placed to reduce your risk of recurrent PE.

Please follow-up with your primary care doctor and with the 
orthopedic surgeon after discharge.

It was a pleasure taking care of you at ___!
-- Your ___ Team
 
Followup Instructions:
___